US07709647B2
1E. (S)-N-((S)-6-Cyano-1,2,3,4-tetrahydroquinolin-3-yl)-2-hydroxy-2-phenylacetamide
To a solution of 3-amino-1,2,3,4-tetrahydroquinoline-6-carbonitrile, dihydrochloride (10.03 g, 40.7 mmol), prepared as described in Example 1D, in DMF (100 mL) was added (S)-(+)-mandelic acid (7.45 g, 48.9 mmol), followed by EDAC (9.37 g, 48.9 mmol), HOBt (7.49 g, 48.9 mmol) and NMM (16.1 mL, 146.1 mmol). The reaction mixture was stirred at RT overnight, then diluted with EtOAc (200 mL), washed with water (50 mL×3), 1N aqueous HCl (50 mL), water (50 mL) and saturated aqueous NaCl, dried (Na2SO4) and concentrated. The residue was chromatographed (silica gel) eluting with EtOAc/hexanes (2:1 ratio), and the purified compound crystallized from acetone three times to give the title compound as the (S, S) diastereoisomer (2.54 g, 20% yield).

reactant | 3-amino-1,2,3,4-tetrahydroquinoline-6-carbonitrile, dihydrochloride | 40.7 mmol, 10.03 g | Cl.Cl.NC1CNC2=CC=C(C=C2C1)C#N
reactant | (S)-(+)-mandelic acid | 48.9 mmol, 7.45 g | C([C@@H](O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | EDAC | 48.9 mmol, 9.37 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 48.9 mmol, 7.49 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 146.1 mmol, 16.1 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (S)-N-((S)-6-Cyano-1,2,3,4-tetrahydroquinolin-3-yl)-2-hydroxy-2-phenylacetamide | 20% yield | C(#N)C=1C=C2C[C@@H](CNC2=CC1)NC([C@H](C1=CC=CC=C1)O)=O | C18H17N3O2
